US05604226
Synthesis of 4,5-dichloro-6-[3-(phenylthio)propyloxy]-3(2H)-pyridazinone (starting compound):
After 1.57 g of 1-bromo-3-phenylthiopropane, 2 g of 4,5-dichloro-6-hydroxy-3(2H)-pyridazinone and 1.3 g of triethylamine were dissolved in dimethylformamide, the mixture was stirred at room temperature for 24 hours. The reaction mixture was poured onto water. The formed crystals were taken by filtration and thoroughly washed with water. The crystals were recrystallized from ethanol to give 1.5 g of the objective compound. Yield, 52%, Melting point, 187°-188° C.

reactant | 1-bromo-3-phenylthiopropane | 1.57 g | BrCCCSC1=CC=CC=C1 | C9H11BrS
reactant | 4,5-dichloro-6-hydroxy-3(2H)-pyridazinone | 2 g | ClC=1C(NN=C(C1Cl)O)=O | C4H2Cl2N2O2
reactant | triethylamine | 1.3 g | C(C)N(CC)CC | C6H15N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 4,5-dichloro-6-[3-(phenylthio)propyloxy]-3(2H)-pyridazinone | 1.5 g | ClC=1C(NN=C(C1Cl)OCCCSC1=CC=CC=C1)=O | C13H12Cl2N2O2S
